US07015246B2
A solution of 60 mg (0.24 mmol) of ethyl 2-(6-hydroxy-5,7-dimethyl-1-benzofuran-3-yl)acetate and 27 mg (0.27 mmol) of triethylamine in 20 ml of dichloromethane is added dropwise, at 0° C. and in a darkened flask, to 185 mg (0.36 mmol) of bis(3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate and 32 mg (0.48 mmol) of copper bronze in 20 ml of dichloromethane. The reaction mixture is stirred overnight at room temperature. Chromatographic purification of the reaction mixture yields 40 mg (42%) of ethyl 2-[6-(3-isopropyl-4-methoxyphenoxy)-5,7-dimethyl-1-benzofuran-3-yl]acetate.

reactant | ethyl 2-(6-hydroxy-5,7-dimethyl-1-benzofuran-3-yl)acetate | 0.24 mmol, 60 mg | OC1=C(C2=C(C(=CO2)CC(=O)OCC)C=C1C)C | C14H16O4
reactant | triethylamine | 0.27 mmol, 27 mg | C(C)N(CC)CC | C6H15N
reactant | bis(3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate | 0.36 mmol, 185 mg | F[B-](F)(F)F.C(C)(C)C=1C=C(C=CC1OC)[I+]C1=CC(=C(C=C1)OC)C(C)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | copper bronze | 0.48 mmol, 32 mg | [Cu] | Cu
product | ethyl 2-[6-(3-isopropyl-4-methoxyphenoxy)-5,7-dimethyl-1-benzofuran-3-yl]acetate | 40 mg, 42% | C(C)(C)C=1C=C(OC2=C(C3=C(C(=CO3)CC(=O)OCC)C=C2C)C)C=CC1OC | C24H28O5
